US04333942
(b) 1-Methyl-4-phenyl-4-(4-pivaloylaminophenoxy)piperidine
from 4-(4-aminophenoxy)-1-methyl-4-phenylpiperidine and pivaloyl chloride.

reactant | 4-(4-aminophenoxy)-1-methyl-4-phenylpiperidine | NC1=CC=C(OC2(CCN(CC2)C)C2=CC=CC=C2)C=C1 | C18H22N2O
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | 1-Methyl-4-phenyl-4-(4-pivaloylaminophenoxy)piperidine | CN1CCC(CC1)(OC1=CC=C(C=C1)NC(C(C)(C)C)=O)C1=CC=CC=C1 | C23H30N2O2
